US07951824B2
Step 6: 4-(3-Fluoro-phenyl)-6-methyl-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide
To a suspension of 150 mg (0.48 mmol) of 4-Bromo-6-methyl-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide, 71 mg (0.5 mmol, 1.05 equiv.) of 3-Fluorophenyl-boronic acid in 2 ml of dioxane were added 0.5 ml of 2M sodium carbonate solution and the mixture was purged with Argon for 10 min. Then 25 mg (0.096 mmol, 0.2 equiv.) of Triphenylphosphine and 10.8 mg (0.048 mmol, 0.1 equiv.) of Palladium acetate were added and the mixture was stirred under Argon atmosphere for 24 h at 90° C. The reaction was allowed to cool to r.t., taken up in two times in ethyl acetate and evaporated to dryness. The residue was separated by flash chromatography on silicagel (heptane/ethyl acetate 4:1) to yield the title compound (111 mg, 71%) as a yellow solid, MS (ISP): m/e=328.0 (M+H)+.

reactant | 4-Bromo-6-methyl-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide | 0.48 mmol, 150 mg | CC=1N=C(SC1)NC(=O)C1=NC(=CC(=C1)Br)C | C11H10BrN3OS
reactant | 3-Fluorophenyl-boronic acid | 0.5 mmol, 71 mg, 1.05 equiv. | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 2M, 0.5 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | Triphenylphosphine | 0.096 mmol, 25 mg, 0.2 equiv. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Palladium acetate | 0.048 mmol, 10.8 mg, 0.1 equiv. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(3-Fluoro-phenyl)-6-methyl-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide | 111 mg, 71% | CC=1N=C(SC1)NC(=O)C1=NC(=CC(=C1)C1=CC(=CC=C1)F)C | C17H14FN3OS
